US20010012901A1
A solution of dicyclohexylamine (0.22 g) in AcOEt (1 ml) was added to a solution of N-(2-carboxymethyl-3,4,7,8,9,10-hexahydro-2,5-dimethyl-2H-naphtho[2,1-e]pyran-6-sulfonyl)-benzamidine (0.55 g) in AcOEt (4 ml) and the mixture was stirred at room temperature to give N-(2-carboxymethyl-3,4,7,8,9,10-hexahydro-2,5-dimethyl-2H-naphtho[2,1-e]pyran-6-sulfonyl)benzamidine dicyclohexylamine salt as a solid (0.66 g).

reactant | dicyclohexylamine | 0.22 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | N-(2-carboxymethyl-3,4,7,8,9,10-hexahydro-2,5-dimethyl-2H-naphtho[2,1-e]pyran-6-sulfonyl)-benzamidine | 0.55 g | C(=O)(O)CC1(OC2=C(CC1)C(=C(C=1CCCCC12)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C | C24H28N2O5S
solvent | AcOEt | 1 ml | CCOC(=O)C | C4H8O2
solvent | AcOEt | 4 ml | CCOC(=O)C | C4H8O2
product | N-(2-carboxymethyl-3,4,7,8,9,10-hexahydro-2,5-dimethyl-2H-naphtho[2,1-e]pyran-6-sulfonyl)benzamidine dicyclohexylamine salt | 0.66 g | C1(CCCCC1)NC1CCCCC1.C(=O)(O)CC1(OC2=C(CC1)C(=C(C=1CCCCC12)S(=O)(=O)NC(C1=CC=CC=C1)=N)C)C | InChI=1S/C24H28N2O5S.C12H23N/c1-15-17-12-13-24(2,14-20(27)28)31-21(17)18-10-6-7-11-19(18)22(15)32(29,30)26-23(25)16-8-4-3-5-9-16;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h3-5,8-9H,6-7,10-14H2,1-2H3,(H2,25,26)(H,27,28);11-13H,1-10H2
